US05753654
1-[4-(p-Fluorobenzyl)-2-morpholinylmethyl]-3-phenylurea
To a solution of 2-aminomethyl-4-(p-fluorobenzyl)-morpholine (1.0 g, 4.5 mmol) in dimethylformamide (10 ml) was added under ice-cooling phenyl isocyanate (0.53 ml, 4.9 mmol) and the mixture was stirred for 30 minutes. To the reaction mixture was added purified water (20 ml) and the crystals thus separated out were then recovered by filtration to give the title compound (1.1 g). Yield=72%.

reactant | 2-aminomethyl-4-(p-fluorobenzyl)-morpholine | 4.5 mmol, 1.0 g | NCC1CN(CCO1)CC1=CC=C(C=C1)F | C12H17FN2O
reactant | phenyl isocyanate | 4.9 mmol, 0.53 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[4-(p-Fluorobenzyl)-2-morpholinylmethyl]-3-phenylurea | 1.1 g, Yield=72% | FC1=CC=C(CN2CC(OCC2)CNC(=O)NC2=CC=CC=C2)C=C1 | C19H22FN3O2
